US07456283B2
Preparation of N-(4-Methyl-3-nitro-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide
A solution of trimethylaluminium (2M in toluene, 1.3 ml, 2.6 mmol) is added over a period of 5 min to a solution of 3-nitro-4-methyl-aniline(152 mg, 1.00 mmol) and 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester (248 mg, 1.00 mmol) in toluene (3.0 ml) at 45° C. under an atmosphere of argon. After gas evolution ceases, the dark brown reaction mixture is stirred 30 min before being cooled to 0° C. An aqueous saturated solution of potassium-sodium tartrate (20 ml), t-butyl methyl ether (15 ml) and methylene chloride (10 ml) are added sequentially. The organic phase is separated and washed with aqueous saturated NaHCO3 (10 ml) and aqueous saturated NaCl (10 ml). The aqueous phases are back-extracted with t-butyl methyl ether (2×15 ml). The organic phases are combined, dried over MgSO4 and concentrated in vacuo to give 383 mg (96 area % by HPLC) of the title compound as pale yellow crystals.

reactant | trimethylaluminium | 2.6 mmol, 2M, 1.3 ml | C[Al](C)C
reactant | 3-nitro-4-methyl-aniline | 1.00 mmol, 152 mg | [N+](=O)([O-])C=1C=C(N)C=CC1C | C7H8N2O2
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester | 1.00 mmol, 248 mg | COC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C14H20N2O2
reactant | potassium-sodium tartrate | 20 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | t-butyl methyl ether | 15 ml | COC(C)(C)C | C5H12O
product | N-(4-Methyl-3-nitro-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)[N+](=O)[O-] | C20H24N4O3
